US05338745
1.5 g of N-butyl-3-(3,4- dihydroxyphenyl)propionamide was dissolved in a mixed solvent consisting of 30 ml of benzene and 10 ml of tetrahydrofuran and 4 ml of acetonedimethylacetal was added to the solution. Then a small amount of p-toluenesulfonic acid was added to the solution and the solution was stirred for 11 hours under reflux. With a further addition of 2 ml of acetonedimethyl acetal, stirring was continued under reflux for 6 hours. After cooling, the solution was poured over ice water containing sodium hydrogen carbonate and was mixed thoroughly. The solution was extracted with ethyl acetate, washed with water and then dried with sodium sulfate anhydride. After removing the solvent by evaporation under reduced pressure, the resulting residue was purified by chromatography on silica gel column using a mixed solvent (chloroform:methanol=100:l) and thus 0.84 g of oily N-butyl-3-(2,2-dimethyl-1,3-benzodioxol-5-yl)propionamide was obtained.

reactant | N-butyl-3-(3,4- dihydroxyphenyl)propionamide | 1.5 g | C(CCC)NC(CCC1=CC(=C(C=C1)O)O)=O | C13H19NO3
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-butyl-3-(2,2-dimethyl-1,3-benzodioxol-5-yl)propionamide | 0.84 g | C(CCC)NC(CCC1=CC2=C(OC(O2)(C)C)C=C1)=O | C16H23NO3
